US06320050B1
A solution of diisopropylamine (1.5 mL, 10.5 mmol) in dry tetrahydrofuran (27 mL) and 1,3-dimethyl-3,4,5,6-tetrahydro-2(1H)-pyrimidinone (8 mL) was cooled to −78° C. under nitrogen and then treated with a 2.5M solution of n-butyllithium in hexanes (4.2 mL, 10.5 mmol). The resulting reaction mixture was stirred at −78° C. for 30 min and then treated dropwise with a solution of (3-trifluoromethylsulfanyl-phenyl)-acetic acid methyl ester (2.50 g, 10.0 mmol) in a small amount of tetrahydrofuran. The reaction mixture was allowed to stir at −78° C. for 1 h, at which time, a solution of iodomethylcyclopentane (2.10 g, 10.0 mmol) in a small amount of dry tetrahydrofuran was added dropwise. The reaction mixture was allowed to warm to 25° C. where it was stirred for 15 h. The reaction mixture was quenched with water (50 mL) and then partitioned between water (75 mL) and ethyl acetate (75 mL). The layers were shaken and separated. The organic layer was dried over magnesium sulfate, filtered, and concentrated in vacuo. Flash chromatography (Merck Silica gel 60, 230-400 mesh, 8/1 hexanes/ethyl acetate) afforded 3-cyclopentyl-2-(3-trifluoromethylsulfanyl-phenyl)-propionic acid methyl ester (2.95 g, 89%) as a colorless oil: EI-HRMS m/e calcd for C16H19F3O2S (M+) 332.1058, found 332.1047.

reactant | diisopropylamine | 10.5 mmol, 1.5 mL | C(C)(C)NC(C)C | C6H15N
reactant | n-butyllithium | C(CCC)[Li]
reactant | (3-trifluoromethylsulfanyl-phenyl)-acetic acid methyl ester | 10.0 mmol, 2.50 g | COC(CC1=CC(=CC=C1)SC(F)(F)F)=O | C10H9F3O2S
reactant | iodomethylcyclopentane | 10.0 mmol, 2.10 g | ICC1CCCC1 | C6H11I
solvent | tetrahydrofuran | 27 mL | O1CCCC1 | C4H8O
solvent | 1,3-dimethyl-3,4,5,6-tetrahydro-2(1H)-pyrimidinone | 8 mL | CN1C(N(CCC1)C)=O | C6H12N2O
product | 3-cyclopentyl-2-(3-trifluoromethylsulfanyl-phenyl)-propionic acid methyl ester | 2.95 g, 89% | COC(C(CC1CCCC1)C1=CC(=CC=C1)SC(F)(F)F)=O | C16H19F3O2S
